US07696240B2
3-Carboxymethyl-5-fluoro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 3-ethoxycarbonylmethyl-5-fluoro-1H-indole-2-carboxylic acid ethyl ester (Lit. 10) was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 376.4 ([M−H]−).

reactant | 3-ethoxycarbonylmethyl-5-fluoro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1CC(=O)OCC)F | C15H16FNO4
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 3-Carboxymethyl-5-fluoro-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | C(=O)(O)CC1=C(N(C2=CC=C(C=C12)F)CC1=CC=CC2=CC=CC=C12)C(=O)O | C22H16FNO4
